US06514975B1
3-Bromo-(trimethylsilyloxy)benzene
To a stirred solution of 3-bromophenol (382.3 g) in acetonitrile (1725 ml) under nitrogen was added hexamethyldisilazane (235.6 g) over 20 minutes. Chlorotrimethylsilane was added dropwise to the clear solution over 20 minutes with stirring and the resulting white suspension was stirred at room temperature overnight. The slurry was removed by filtration and was washed with acetonitrile (200 ml). The filtrate was evaporated in vacuo to a pale yellow oil which was distilled under vacuum (72° C. at 0.5 mmHg) to give the title compound, 541 g, as a colourless oil.

reactant | 3-bromophenol | 382.3 g | BrC=1C=C(C=CC1)O | C6H5BrO
reactant | hexamethyldisilazane | 235.6 g | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | Chlorotrimethylsilane | Cl[Si](C)(C)C | C3H9ClSi
solvent | acetonitrile | 1725 ml | C(C)#N | C2H3N
product | 3-Bromo-(trimethylsilyloxy)benzene | BrC=1C=C(C=CC1)O[Si](C)(C)C | C9H13BrOSi
